US06187805B1
a) Methyl 1-( benzenesulphonyl)-1H-indole-4-carboxylate
A mixture of methyl indole-4-carboxylate (J. Org. Chem. 1980, 45, 3350) (5.0 g, 28.5 mmol), benzenesulphonyl chloride (10.1 g, 57.1 mmol) and anhydrous potassium carbonate (15.78 g, 114 mmol) in butan-3-one (150 ml) was refluxed under nitrogen for 15 hours. Additional benzenesulphonyl chloride (10.1 g) and anhydrous potassium carbonate (10.1 g) were added and refluxing was continued for 5 hours. The mixture was diluted with water (300 ml) and extracted with diethyl ether (3×300 ml). The combined organic solutions were dried (MgSO4) and concentrated to give a white solid which was recrystallised from ethanol (6.35 g, 72%); δH (360 MHz, CDCl3), 8.21 (1H, d, J=8.3 Hz, Ar—H), 7.96 (1H, dd, J=8.1 and 0.7 Hz, Ar—H), 7.87-7.84 (2H, m, Ar—H), 7.69 (1H, d, J=3.7 Hz, Ar—H), 7.56-7.33 (5H, m, Ar—H), 3.94 (3H, s, —OMe); m/z (CI) 316 (M++1).

reactant | methyl indole-4-carboxylate | 28.5 mmol, 5.0 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | benzenesulphonyl chloride | 57.1 mmol, 10.1 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | potassium carbonate | 114 mmol, 15.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzenesulphonyl chloride | 10.1 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | potassium carbonate | 10.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-3-one | 150 ml | CCC(C)=O | C4H8O
solvent | water | 300 ml | O | H2O
product | Methyl 1-( benzenesulphonyl)-1H-indole-4-carboxylate | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C(=O)OC | C16H13NO4S
